US07166617B2
a) 3-Chloro-N-(4-fluorophenyl)propanamide
By using 4-fluoroaniline and 3-chloropropionyl chloride, the title compound was obtained by similar procedures to those of Example 42a (yield: 57%).

reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 3-chloropropionyl chloride | ClCCC(=O)Cl | C3H4Cl2O
product | 3-Chloro-N-(4-fluorophenyl)propanamide | ClCCC(=O)NC1=CC=C(C=C1)F | C9H9ClFNO
